US04514415
A mixture of 18.9 g (0.066 mole) of the hydrochloride of 3-(1,2-dicarboxyethyl)-imidazo[1,2-a]pyridin-2(3H)-one, 7 g (0.1 mole) of methyl vinyl ketone, 50 ml of methanol and 50 ml of water is stirred at room temperature for 36 hours. The product is then precipitated by the dropwise addition of approximately 15 ml of 4N aqueous sodium hydroxide solution. The precipitate is filtered with suction, washed with water, methanol and acetone and dried in vacuo at 50° C. 8 g (38% of the theoretical yield) of 3-(1,2-dicarboxyethyl)-3-(3-oxobutyl)-imidazo[1,2-a]pyridin-2(3H)-one having a melting point of 195° C. (decomposition) are obtained.

reactant | hydrochloride | 0.066 mole, 18.9 g | Cl | ClH
reactant | 3-(1,2-dicarboxyethyl)-imidazo[1,2-a]pyridin-2(3H)-one | C(=O)(O)C(CC(=O)O)C1C(N=C2N1C=CC=C2)=O | C11H10N2O5
reactant | methyl vinyl ketone | 0.1 mole, 7 g | C(=C)C(=O)C | C4H6O
reactant | methanol | 50 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-(1,2-dicarboxyethyl)-3-(3-oxobutyl)-imidazo[1,2-a]pyridin-2(3H)-one | C(=O)(O)C(CC(=O)O)C1(C(N=C2N1C=CC=C2)=O)CCC(C)=O | C15H16N2O6
